US07749992B2
Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-fluoro-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate
This compound was prepared utilizing the same methodology described in Example 56 wherein replacement of isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-methyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate with isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-fluoro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate following the procedure of Example 56 for the synthesis of isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7,8-dimethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate. ESI MS 549 (M+H).

reactant | isopropyl-5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7-bromo-8-fluoro-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | C(C)(C)OC(=O)N1C2=C(C(CCC1)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C=C(C(=C2)F)Br | C25H24BrF7N2O3
reactant | isopropyl 5-[acetyl-(3,5-bistrifluoromethylbenzyl)amino]-7,8-dimethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)C)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C27H30F6N2O3
product | Isopropyl 5-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-8-fluoro-7-methyl-2,3,4,5-tetrahydro-benzo[b]azepine-1-carboxylate | C(C)(=O)N(C1C2=C(N(CCC1)C(=O)OC(C)C)C=C(C(=C2)C)F)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F | C26H27F7N2O3
